US05476847
(4-Methoxyphenyl)ethanal
To a stirred solution of methyl 4-methoxyphenylacetate (45.0 g) in toluene (250 ml) cooled to -78° C., add a 1.5M solution of DIBALH in toluene (167 ml) over 5 h, maintaining the reaction temperature at -78° C. Stir for an additional 0.5 h, then pour into 1:1 ice/1M HCl (1500 ml) and Et2O (500 ml). Stir the slurry for 1 h, separate the layers and extract the aq. layer with Et2O (2×500 ml). Wash the combined organic layers with sat'd NaHCO3 (500 ml) and sat'd NaCl, dry (MgSO4), filter and evaporate to give an oil. Perform bulb-to-bulb distillation (100°-130° C., 1 mmHg) to obtain the title compound (33.9 g, 90%) as a colorless liquid. 1H Nmr (CDCl3) δ9.71 (1H, t, J=2.4 Hz), 7.12 (2H, m), 6.89 (2H, m), 3.79 (3H, s) 3.61 (2H, m).

reactant | methyl 4-methoxyphenylacetate | 45.0 g | COC1=CC=C(C=C1)CC(=O)OC | C10H12O3
reactant | DIBALH | CC(C)C[AlH]CC(C)C
reactant | Et2O | 500 ml | CCOCC | C4H10O
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 167 ml | C1(=CC=CC=C1)C | C7H8
product | (4-Methoxyphenyl)ethanal | 33.9 g, 90% | COC1=CC=C(C=C1)CC=O | C9H10O2
